US06995162B2
4-(2-tert-Butyl-5-nitro-phenyl)-but-3-enal
4-(2-tert-Butyl-5-nitro-phenyl)-but-3-en-1-ol (1.024 g) was dissolved in 10 ml of CH2Cl2 and added dropwise over 5 min to a −78 C mix of oxalyl chloride (0.645 ml), DMSO (0.583 ml), and 10 ml CH2Cl2. The reaction was stirred at −78 C for 1 h, then treated with a solution of TEA (1.52 ml) in 7 ml CH2Cl2 and stirred at −78 C for an additional 25 min, then warmed to −30° C. for 35 min. The reaction was treated with 50 ml of saturated aqueous NH4Cl, diluted with H2O and extracted with EtOAc. The organic layer was brine-washed, dried over Na2SO4, filtered, and concentrated in vacuo to yield a yellow oil which was used as is in Preparation LXXXVIII.

reactant | 4-(2-tert-Butyl-5-nitro-phenyl)-but-3-en-1-ol | 1.024 g | C(C)(C)(C)C1=C(C=C(C=C1)[N+](=O)[O-])C=CCCO | C14H19NO3
reactant | oxalyl chloride | 0.645 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.583 ml | CS(=O)C | C2H6OS
reactant | NH4Cl | 50 ml | [NH4+].[Cl-]
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 7 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-tert-Butyl-5-nitro-phenyl)-but-3-enal | C(C)(C)(C)C1=C(C=C(C=C1)[N+](=O)[O-])C=CCC=O | C14H17NO3
